US07262023B2
11.5 ml of perfluorobutane-1-sulfonic acid fluoride was added in drops at 0° C. to a solution of 13.08 g of 11α-hydroxy-7α-methyl-estr-4-ene-3,17-dione (produced by means of microbiological synthesis according to the invention [Part A]) in 250 ml of toluene and 18.2 ml of 1,8-diazabicyclo[5,4,0]undec-7-ene. After 1 hour, it was neutralized with 2 M hydrochloric acid, added to water, extracted four times with ethyl acetate, washed with saturated sodium chloride solution, dried and concentrated by evaporation in a vacuum. After the crude product was chromatographed on silica gel with a hexane/ethyl acetate gradient, 8.7 g of 11β-fluoro-7α-methyl-estr-4-ene-3,17-dione was obtained. Melting point: 101.4° C., [α]D: +135.8° (CHCl3).

reactant | perfluorobutane-1-sulfonic acid fluoride | 11.5 ml | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | 11α-hydroxy-7α-methyl-estr-4-ene-3,17-dione | 13.08 g | O[C@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)C)=O | C19H26O3
reactant | hydrochloric acid | 2 M | Cl | ClH
reactant | water | O | H2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | 1,8-diazabicyclo[5,4,0]undec-7-ene | 18.2 ml | N12CCCCCC2=NCCC1 | C9H16N2
product | 11β-fluoro-7α-methyl-estr-4-ene-3,17-dione | 8.7 g | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)C)=O | C19H25FO2
